US08114868B2
(S)-6-(2-Hydroxy-2-methyl-propyl)-3-(1-{4-[1-(2-methoxy-2-methyl-propyl)-2-oxo-1,2-dihydro-pyridin-4-yl]-phenyl}-ethyl)-6-phenyl-[1,3]oxazinan-2-one
The title compound was prepared from (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-[(S)-1-(4-(4,4,5,5-tetra methyl-1,3,2-d ioxaborolan-2-yl)phenyl)ethyl]-1,3-oxazinan-2-one and 4-bromo-1-(2-methoxy-2-methyl-propyl)-1H-pyridin-2-one following a procedure analogous to that described in Example 75 Method 1. Mass spectrum (ESI+): m/z=533 [M+H]+.

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-[(S)-1-(4-(4,4,5,5-tetra methyl-1,3,2-d ioxaborolan-2-yl)phenyl)ethyl]-1,3-oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | 4-bromo-1-(2-methoxy-2-methyl-propyl)-1H-pyridin-2-one | BrC1=CC(N(C=C1)CC(C)(C)OC)=O | C10H14BrNO2
product | (S)-6-(2-Hydroxy-2-methyl-propyl)-3-(1-{4-[1-(2-methoxy-2-methyl-propyl)-2-oxo-1,2-dihydro-pyridin-4-yl]-phenyl}-ethyl)-6-phenyl-[1,3]oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)C(C)C1=CC=C(C=C1)C1=CC(N(C=C1)CC(C)(C)OC)=O)C1=CC=CC=C1)(C)C | C32H40N2O5
